US08193199B2
A mixture of 8-chloro-3-methylquinoxalin-2-ol (1.0765 g, 5.5314 mmol) and phosphorous oxychloride (10.127 mL, 110.63 mmol) was stirred at 100° C. After 3 h, the mixture was cooled to room temperature. The mixture was poured into ice (˜100 mL) with stirring and neutralized with NH4OH (30 mL) and ice with stirring. The resulting precipitate was collected by filtration, rinsed with water (200 mL), and dried to give 3,5-dichloro-2-methylquinoxaline as a pink solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 7.98-8.07 (2H, m), 7.84 (1H, dd, J=8.3, 7.7 Hz), 2.79 (3H, s); LC-MS (ESI) m/z 213.0 [M+H]+. The pink solid was carried on crude without purification for the next step.

reactant | 8-chloro-3-methylquinoxalin-2-ol | 5.5314 mmol, 1.0765 g | ClC=1C=CC=C2N=C(C(=NC12)O)C | C9H7ClN2O
reactant | phosphorous oxychloride | 110.63 mmol, 10.127 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | NH4OH | 30 mL | [NH4+].[OH-]
product | 3,5-dichloro-2-methylquinoxaline | ClC=1C(=NC2=CC=CC(=C2N1)Cl)C | C9H6Cl2N2
